US07691902B2
4-Bromo-2-fluoro-N,N-dimethylbenzenesulfonamide (1.0 g, 3.5 mmol) and sodium cyanide (350 mg, 7.1 mmol) were dissolved in DMF (3 mL) and irradiated in the microwave at 150° C. for 20 minutes. DMF was removed in vacuo and the residue was redissolved in dichloromethane (5 mL). The organics were washed with 5 mL of each 1N aqueous HCl, saturated aqueous NaHCO3, and brine. Organics were dried over Na2SO4 and evaporated to dryness. Crude product was purified by chromatography on silica gel (eluting with 0-50% ethyl acetate in hexanes) to afford 4-bromo-2-cyano-N,N-dimethylbenzenesulfonamide (72 mg, 7%). ESI-MS m/z calc. 288.0, found 288.9 (M+1)+; retention time 1.44 minutes.

reactant | 4-Bromo-2-fluoro-N,N-dimethylbenzenesulfonamide | 3.5 mmol, 1.0 g | BrC1=CC(=C(C=C1)S(=O)(=O)N(C)C)F | C8H9BrFNO2S
reactant | sodium cyanide | 7.1 mmol, 350 mg | [C-]#N.[Na+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 4-bromo-2-cyano-N,N-dimethylbenzenesulfonamide | 72 mg, 7% | BrC1=CC(=C(C=C1)S(=O)(=O)N(C)C)C#N | C9H9BrN2O2S
